US06689918B2
Preparation of 1-(dimethylamino)-2-methylpent-1-en-3-one
Diethyl ketone (29.71 g; 0.345 mol) and [3-(dimethylamino)-2-azaprop-2-en-1-ylidene]dimethyl-ammonium chloride (37.64 g; 0.230 mol) were added to a solution of 30% of sodium methoxide in methanol (41.41 g; 0.230 mol) and methanol (305 ml) at 20° C. under N2. The reaction mixture was refluxed for 18 h and then concentrated under reduced pressure. The residue was dissolved in dichloromethane (300 ml) and washed with saturated sodium bisulphite solution (3×100 ml). The organic phase was dried over Na2SO4 and concentrated under reduced pressure. This gave 26.60 g of product, which comprised 42% by weight of 1-(dimethylamino)-2-methylpent-1-en-3-one (corresponding to a yield of 34%).

reactant | Diethyl ketone | 0.345 mol, 29.71 g | C(C)C(=O)CC | C5H10O
reactant | [3-(dimethylamino)-2-azaprop-2-en-1-ylidene]dimethyl-ammonium chloride | 0.230 mol, 37.64 g | [Cl-].CN(C=NC=[N+](C)C)C
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 305 ml | CO | CH4O
solvent | methanol | 0.230 mol, 41.41 g | CO | CH4O
product | 1-(dimethylamino)-2-methylpent-1-en-3-one | CN(C=C(C(CC)=O)C)C | C8H15NO
